US08404679B2
N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(6-cyano-pyridine-3-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(6-cyano-pyridine-3-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 6-cyanonicotinic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light brown oil. MS m/e: 543.1 [M+H]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H20ClF3N2O2
reactant | 6-cyanonicotinic acid | C(#N)C1=NC=C(C(=O)O)C=C1 | C7H4N2O2
product | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(6-cyano-pyridine-3-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C=1C=NC(=CC1)C#N)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C27H22ClF3N4O3
